US04320218
Into a glass reactor equipped with a nitrogen inlet is charged methanol (238 ml), freshly distilled cyclopentadiene (2 moles), furfural (2 moles) and diethylamine (8 ml). The resulting reaction is slightly exothermic. The dark red solution is stirred for 71/2 hours. At this time an equal volume of distilled water is added and extracted with chloroform. The organic layer is dried and evaporated leaving a dark red viscous oil as the product, furfuryl fulvene.

reactant | methanol | 238 ml | CO | CH4O
reactant | cyclopentadiene | 2 moles | C1=CC=CC1 | C5H6
reactant | furfural | 2 moles | C(C1=CC=CO1)=O | C5H4O2
reactant | diethylamine | 8 ml | C(C)NCC | C4H11N
solvent | water | O | H2O
product | furfuryl fulvene | C(C1=CC=CO1)C1=CC=CC1=C | C11H10O
